### PR TITLE
[Merged by Bors] - fea(Ideal/Int): more results/instances about `absNorm (under ℤ I)`

### PR DESCRIPTION
**Pull request by xroblot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Int.lean [hunk 1]
```diff
@@ -79,4 +91,24 @@ theorem absNorm_under_dvd_absNorm {S : Type*} [CommRing S] [IsDedekindDomain S]
...
+theorem Nat.absNorm_under_prime (P : Ideal R) [P.IsPrime] [NeZero P] :
+    (absNorm (under ℤ P)).Prime := by
+  rw [Nat.prime_iff_prime_int, ← span_singleton_prime, Int.ideal_span_absNorm_eq_self]
+  · infer_instance
+  · refine Int.natCast_ne_zero.mpr <| absNorm_eq_zero_iff.not.mpr ?_
+    have : P ≠ ⊥ := NeZero.ne _
+    contrapose! this
+    exact eq_bot_of_comap_eq_bot this
+
+instance Nat.prime_absNorm (P : Ideal R) [P.IsPrime] [NeZero P] :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Int.lean]: Do we really need this as a global instance? I think we very rarely use `fact` instances globally.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Ideal/Int.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/Int.lean]: Yeah, I was not really sure about that. I'll remove this instance.
